US07320973B2
(R)-2-Fluoro-5,11-dihydro-5-[1-(4-pyrrolidinophenethyl)pyrrolidin-2-yl-methyl]dibenzo[b,e][1,4]oxazepine dihydrochloride
20 ml of 2 M hydrogen chloride/diethyl ether was added to a solution of (R)-2-fluoro-5,11-dihydro-5-[1-(4-pyrrolidinophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine (2.29 g) in dichloromethane (30 ml), and they were stirred together for 2 hours. The solvent was evaporated under reduced pressure. The obtained residue was solidified by stirring it in hexane. The solid thus precipitated was taken by the filtration to obtain the title compound in the form of a brown solid (2.17 g, 81%).

reactant | hydrogen chloride diethyl ether | 2 M, 20 ml | Cl.C(C)OCC
reactant | (R)-2-fluoro-5,11-dihydro-5-[1-(4-pyrrolidinophenethyl)pyrrolidin-2-ylmethyl]dibenzo[b,e][1,4]oxazepine | 2.29 g | FC1=CC2=C(N(C3=C(OC2)C=CC=C3)C[C@@H]3N(CCC3)CCC3=CC=C(C=C3)N3CCCC3)C=C1 | C30H34FN3O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (R)-2-Fluoro-5,11-dihydro-5-[1-(4-pyrrolidinophenethyl)pyrrolidin-2-yl-methyl]dibenzo[b,e][1,4]oxazepine dihydrochloride | Cl.Cl.FC1=CC2=C(N(C3=C(OC2)C=CC=C3)C[C@@H]3N(CCC3)CCC3=CC=C(C=C3)N3CCCC3)C=C1 | InChI=1S/C30H34FN3O.2ClH/c31-25-11-14-28-24(20-25)22-35-30-8-2-1-7-29(30)34(28)21-27-6-5-18-33(27)19-15-23-9-12-26(13-10-23)32-16-3-4-17-32;;/h1-2,7-14,20,27H,3-6,15-19,21-22H2;2*1H/t27-;;/m1../s1
